US06329375B1
1,2-Dimethyl-5,6-dinitrobenzimidazole was reduced with tin in hydrochloric acid. The solution obtained from the reduction was diluted with water, cooled to 10° C., and treated with 40% NaOH. The precipitate which formed was filtered, washed with water and recrystallized from alcohol to yield 1,2 dimethly-5,6 diaminobenzimidazole.

reactant | 1,2-Dimethyl-5,6-dinitrobenzimidazole | CN1C(=NC2=C1C=C(C(=C2)[N+](=O)[O-])[N+](=O)[O-])C | C9H8N4O4
reactant | tin | [Sn] | Sn
reactant | NaOH | [OH-].[Na+]
solvent | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 1,2 dimethly-5,6 diaminobenzimidazole | CN1C(=NC2=C1C=C(C(=C2)N)N)C | C9H12N4
